US07307088B2
Step A: Preparation of 1-(4,4-Dimethyl-7-nitro-3,4-dihydro-1H-isoquinolin-2-yl)-ethanone
A mixture of 4-(dimethylamino)pyridine (0.125 g, 1.02 mmol), 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline (0.21 g, 1.02 mmol), DIEA (0.53 mL, 3.06 mmol), and Ac2O (0.19 mL, 2.04 mmol) in 7 mL of CH2Cl2 was stirred at RT under N2 for two days. The volatiles were removed under vacuum. The residue was partitioned between EtOAc and brine, and the organic portion was dried with Na2SO4, filtered, and concentrated. The crude material was purified by flash column chromatography (2-3% MeOH in CH2Cl2), to yield the desired compound as a light yellowish solid. MS (ES+): 249.3 (M+H)+. Calc'd for C13H16N2O3-248.28.

reactant | 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-isoquinoline | 1.02 mmol, 0.21 g | CC1(CNCC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | DIEA | 3.06 mmol, 0.53 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ac2O | 2.04 mmol, 0.19 mL | CC(=O)OC(=O)C | C4H6O3
catalyst | 4-(dimethylamino)pyridine | 1.02 mmol, 0.125 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | 1-(4,4-Dimethyl-7-nitro-3,4-dihydro-1H-isoquinolin-2-yl)-ethanone | CC1(CN(CC2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C13H16N2O3
